US07919506B2
Step G: Preparation of N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine
To solution of (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)benzyl)cyanamide (144 mg, 0.26 mmol) in toluene was added sodium azide (84.9 mg, 1.31 mmol) followed by TEA-HCl (178.8 mg, 1.3 mmol). The mixture was stirred at 115° C. overnight. Water was added and the mixture was extracted with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over 25+S Biotage silica column (eluted with 5-50% ethyl acetate in heptane) to afford the title compound (90.9 mg, 59%). 1H NMR (400 MHz, CDCl3) δ ppm 0.90-1.16 (m, 5H) 1.23-1.32 (m, 1H) 1.49-1.61 (m, 3H) 1.69 (s, 1H) 1.97 (d, J=12.45 Hz, 1H) 3.21 (s, 3H) 4.05 (d, J=7.88 Hz, 1H) 4.74-4.93 (m, 4H) 7.31 (s, 1H) 7.41 (d, J=7.88 Hz, 1H) 7.52 (d, J=7.88 Hz, 1H) 7.69 (s, 2H) 7.78 (s, 1H). MS (ES+) Calc: 595.2, Found: 596.5 (M+1).

reactant | (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)benzyl)cyanamide | 0.26 mmol, 144 mg | C1(CCCCC1)C(C1=C(CN(C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)OC | C26H25F9N2O
reactant | sodium azide | 1.31 mmol, 84.9 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine | 90.9 mg, 59% | C1(CCCCC1)C(C1=C(CN(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)OC | C26H26F9N5O
